* Subcircuit LM_353
.subckt LM_353 net-_j1-pad2_ net-_j2-pad2_ net-_q17-pad3_ net-_j1-pad3_ net-_d2-pad2_ 
* /home/ash98/downloads/esim-master/src/subcircuitlibrary/lm_353/lm_353.cir
.include 1N914.lib
.include Ideal_npn2.lib
.include PJF.lib
.include Ideal_pnp2.lib
j1 net-_j1-pad1_ net-_j1-pad2_ net-_j1-pad3_ J2N3820
j2 net-_j1-pad1_ net-_j2-pad2_ net-_j1-pad3_ J2N3820
q2 net-_j1-pad1_ net-_q10-pad1_ net-_q10-pad1_ Ideal_pnp2
q4 net-_q10-pad1_ net-_q10-pad1_ net-_j1-pad3_ Ideal_pnp2
j3 net-_j1-pad3_ ? net-_j3-pad3_ J2N3820
q3 net-_j1-pad3_ net-_j1-pad3_ net-_q1-pad2_ Ideal_npn2
q1 net-_q1-pad1_ net-_q1-pad2_ net-_j1-pad3_ Ideal_npn2
q6 net-_q6-pad1_ net-_q1-pad2_ net-_c1-pad1_ Ideal_npn2
r3  net-_j1-pad3_ net-_c1-pad1_ 1.8k
q5 net-_q1-pad2_ net-_d2-pad1_ net-_d2-pad2_ Ideal_npn2
r1  net-_q1-pad1_ net-_r1-pad2_ 2k
r4  net-_q6-pad1_ net-_r4-pad2_ 2k
r2  net-_r1-pad2_ net-_d2-pad2_ 100
r5  net-_r4-pad2_ net-_d2-pad2_ 100
q8 net-_q13-pad2_ net-_d2-pad1_ net-_d2-pad2_ Ideal_npn2
q7 net-_j1-pad3_ net-_c1-pad1_ net-_q13-pad2_ Ideal_npn2
* u2  net-_d2-pad2_ net-_j3-pad3_ zener
q12 net-_q11-pad1_ net-_q11-pad1_ net-_j1-pad3_ Ideal_pnp2
d1 net-_d1-pad1_ net-_d1-pad2_ 1N914
q11 net-_q11-pad1_ net-_j3-pad3_ net-_d1-pad1_ Ideal_npn2
q10 net-_q10-pad1_ net-_d1-pad1_ net-_d1-pad2_ Ideal_npn2
r6  net-_d1-pad2_ net-_d2-pad1_ 20k
d2 net-_d2-pad1_ net-_d2-pad2_ 1N914
q9 net-_d2-pad2_ net-_c1-pad2_ net-_c1-pad1_ Ideal_pnp2
c1  net-_c1-pad1_ net-_c1-pad2_ 10p
q16 net-_q11-pad1_ net-_q11-pad1_ net-_q14-pad2_ Ideal_npn2
q14 net-_q11-pad1_ net-_q14-pad2_ net-_c1-pad2_ Ideal_npn2
r8  net-_q14-pad2_ net-_c1-pad2_ 6k
q13 net-_c1-pad2_ net-_q13-pad2_ net-_q13-pad3_ Ideal_npn2
r7  net-_q13-pad3_ net-_d2-pad2_ 30
q19 ? net-_q11-pad1_ net-_q18-pad2_ Ideal_npn2
q18 net-_q11-pad1_ net-_q18-pad2_ net-_q17-pad3_ Ideal_npn2
r10  net-_q18-pad2_ net-_q17-pad3_ 22
r11  net-_q17-pad3_ net-_q17-pad2_ 30
q17 net-_d3-pad1_ net-_q17-pad2_ net-_q17-pad3_ Ideal_pnp2
q20 net-_d2-pad2_ net-_c1-pad2_ net-_q17-pad2_ Ideal_pnp2
d3 net-_d3-pad1_ net-_d2-pad2_ 1N914
q15 net-_c1-pad1_ net-_d3-pad1_ net-_q15-pad3_ Ideal_npn2
r9  net-_q15-pad3_ net-_d2-pad2_ 160
a1 net-_d2-pad2_ net-_j3-pad3_ u2
* Schematic Name: zener, NgSpice Name: zener
.model u2 zener(n_forward=1.0 v_breakdown=5.6 i_sat=1.0e-12 limit_switch=FALSE i_breakdown=2.0e-2 )
* Control Statements

.ends LM_353